US04335142
PREPARATION OF 2-CHLORO-1-(PHENYLSULFONYL)ETHYL p-t-BUTYLPHENYL SULFIDE
A solution of 25.2 g (0.150 mole) of phenyl vinyl sulfone in 100 ml of carbon tetrachloride and 30 ml of glacial acetic acid was treated with 30.1 g (0.150 mole) of p-t-butylbenzenesulfenyl chloride. There was an exotherm of 2° within 10 minutes. The red color of the sulfenyl chloride disappeared within 24 hours. Evaporation of the solvent left 54 g (98%) of crude product m.p. 58°-69°. Recrystallization from 100 ml of ethyl acetate-petroleum ether (1:1) gave 29 g (52%) of colorless crystals, m.p. 67°-69°.

reactant | phenyl vinyl sulfone | 0.150 mole, 25.2 g | C(=C)S(=O)(=O)C1=CC=CC=C1 | C8H8O2S
reactant | p-t-butylbenzenesulfenyl chloride | 0.150 mole, 30.1 g | C(C)(C)(C)C1=CC=C(C=C1)SCl | C10H13ClS
reactant | sulfenyl chloride | S(Cl)Cl | Cl2S
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-CHLORO-1-(PHENYLSULFONYL)ETHYL p-t-BUTYLPHENYL SULFIDE | 29 g, 52% | C(C)(C)(C)C1=CC=C(C=C1)SC(CCl)S(=O)(=O)C1=CC=CC=C1 | C18H21ClO2S2
